Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
scheduled autologous transplant with BEAM conditioning
 
Major Surgical or Invasive Procedure:
___: IVC filter placed
___: auto-stem cell transplant

 
History of Present Illness:
___ with transformed DLBCL and h/o follicular lymphoma 
presenting for a scheduled autoSCT. She was also reporting an 
area of right medial thigh erythema, tenderness and induration 
to the transplant nurse over the phone on ___. She had a 
scheduled outpatient appointment for pre-transplant lab work. 
She had ___ at the outpatient heme/onc office which showed an 
acute right popliteal/ femoral DVT. 

Stem cell collection period prolonged as counts slower to 
recover than in the past.  Required addition of Mozibil with 
much improved stem cells collections with total yield of over 5 
x 10(e)6 CD 3 cells/kg.  Her last PET CT showed almost a 
complete response with residual focus of avidity in the bed of 
the abdominal mass.  She was evaluated by radiation oncology 
with the plan for consolidative radiation therapy to be done 
following her autologous transplant.  Echocardiogram on 
___ showed normal left ventricular wall thickness and 
cavity size with mildly depressed global systolic function with 
LVEF of 45%.  PFT's from ___ showed FVC of 66%, FEV1 of 
73%, TLC of 73% and DLCO of 93%.  Bone marrow aspirate and 
biopsy on ___ showed no evidence for lymphoma but was 
noted for a small mature lymphocyte clone that is a separate 
malignancy of
the CLL phenotype.  She has no indication of this in her blood. 
As her transformed lymphoma needs to be treated and is more life
threatening if left untreated, the decision was made to proceed
with the autologous transplant as planned.
 
PAST ONCOLOGIC HISTORY:  
Transformed DLBCL with a history of follicular lymphoma stage 
IIA 
- ___ developed worsening musculoskeletal back pain, early
satiety, hypoalbuminemia and found to have mesenteric mass
- ?___ ex lap with 15 cm lobulated mass involving the
duodenum, retroperitoneum and celiac access. Biopsies showed
Follicular lymphomas grade II/III. Reportedly negative staging
Gallium scan. CD10+ BCL2+
- ___ completed 6 cycles CHOP, complications included
SVC/innominate thrombus (tPA)
- ___ CT showed persistent 7 x 3.5 x 9 cm oblong mass, bone
marrow at completion was negative for lymphomatous involvement.
- ___ PET-CT with very slight amount of increased tracer
activity within the posterior left supraclavicular region. No
other areas of FDG avid disease were noted 
- ___ through ___ per records she was treated with CVP
followed by course of single agent Rituxan
- ___ through ___ surveillance imaging with no evidence of
recurrent disease, stable mesenteric mass.
- ___ abdominal pain led to CT with no change in mass size,
increased conspicuity of nodular borders
- ___ PET-CT with L. hilar LN PET-avid to SUV 7.9, otherwise
stable mesenteric mass with low level SUV 2.2 stable since 
prior.
- ___ CT torso showed persistent mesenteric and left hilar
lymphadenopathy. Stable right middle lobe small focus of ground
glass opacity and adjacent subpleural fat hypertrophy, 
suggestive
of inflammatory process. Stable right adnexal cyst. 
- ___ Presented to PCP ___ ___iscomfort. 
Exam revealed new 
adenopathy. Labs notable for LDH 341, WBC 10.1, normal 
differential, PLT 452. 
- ___ PET CT revealed, "Large left cervical, 
supraclavicular, mediastinal
lymphadenopathy, and retroperitoneal lymphadenopathy, and small 
mesenteric
lymphadenopathy, all of which is markedly FDG-avid and 
concerning for
lymphoma." SUVmax 35.5.
- ___iopsy revealed diffuse large B cell 
lymphoma, CD20+ 
CD10+ lambda restricted. MIB and cytogenetics are pending
- ___ C1D1 ICE
- ___ C1 Rituximab, clincally improved adenopathy
- ___ C2 Rituximab, WBC 6.5, PLT 43
- ___ Admit for C2D1 ICE
- ___ C3 Rituximab
- ___ PET CT showed almost complete resolution of FDG avid 
disease with a 
residual focus of avidity in the bed of the former abdominal 
mass, SUV ___ C4 Rituximab
- PLANNED ___ C4 ICE followed by stem cell mobilization and 
collection

 
Past Medical History:
--Transformed DLBCL with history of follicular lymphoma as noted
above. 
--CLL, noted on BM biopsy on ___.
--Cerebral Aneurysm s/p coil ___ c/b hyperthesia of R V1/V2 
(*Known slight CN VI palsy & mild proptosis of R eye)
--Hypogammaglobulinemia 
--Mild GERD
--OA / LBP
--Small Intestinal Bacterial Overgrowth
--Trochanteric Bursitis
--s/p Excisional Bx L Cervical Lymph Node
--s/p L total knee replacement ___, walks with cane
--s/p I&D Labial Abscess
--s/p Excision Cyst R ___ Digit of Hand

 
Social History:
___
Family History:
Brother: lymphoma. 

 
Physical Exam:
ADMISSION EXAM: 
.
VITALS -  98.4, 126/62, 75, 18, 98% RA   weight: 238.2
General: Alert, oriented x3, lying in bed in NAD
HEENT: Normocephalic. Sclerae anicteric. PERRL, EOMI, MMM, OP 
clear
Neck: Supple, no ___, no thyromegaly
CV: RRR, normal S1/ S2, ___ systolic murmur heard best at the 
apex, no rubs or gallops
Lungs: CTAB, no W/R/R
Abdomen: Soft, nontender, nondistended. Normal bowel sounds. No 
rebound or guarding. No masses or organomegaly.
GU: no foley 
Ext: WWP, pulses 2+. Chronic venous stasis changes on both lower 
legs, R>L. Tender, erythematous corded vein on right medial 
mid-thigh. No cyanosis, clubbing or edema. 
Neuro: Exam nonfocal. CN ___ grossly intact. Gait not assessed.
.
DISCHARGE EXAM: 
.
VITALS -  97.5 118/78 104 18 99% RA  
I/O yesterday (24hr): 1.4/0.9 (no BMs) 
General: Alert, oriented x3, lying in bed in NAD
HEENT: Normocephalic. Sclerae anicteric. PERRL, EOMI, MMM, no 
lesions
Neck: Supple, no ___, no thyromegaly
CV: RRR, normal S1/ S2, ___ systolic murmur heard best at the 
apex, no rubs or gallops
Lungs: CTAB, no W/R/R
Abdomen: Soft, nontender, nondistended. Normal bowel sounds. No 
rebound or guarding. No masses or organomegaly.
GU: no foley; healed skin tears in inguinal region; pink, no 
purulence, no surrounding errythema, IMPROVED 
Ext: WWP, pulses 2+. Chronic venous stasis changes on both lower 
legs, R>L. 2+ pitting edema ___ at ankles, L>R. No cyanosis or 
clubbing. L hip TTP, no masses, errhtyema, warmth. 
Neuro: Exam nonfocal. CN ___ grossly intact. normal gait

 
Pertinent Results:
ADMISSION LABS: 
---------------
___ 10:45AM   UREA N-11 CREAT-0.8 SODIUM-137 POTASSIUM-4.3 
CHLORIDE-101 TOTAL CO2-26 ANION GAP-14
___ 10:45AM   estGFR-Using this
___ 10:45AM   ALT(SGPT)-12 AST(SGOT)-20 LD(LDH)-341* ALK 
PHOS-153* TOT BILI-0.2
___ 10:45AM   TOT PROT-6.2* ALBUMIN-4.0 GLOBULIN-2.2 
CALCIUM-8.6 PHOSPHATE-3.5 MAGNESIUM-2.1 URIC ACID-3.9
___ 10:45AM   WBC-8.6# RBC-2.61* HGB-8.2* HCT-25.5* MCV-98 
MCH-31.3 MCHC-32.0 RDW-24.1*
___ 10:45AM   NEUTS-83.2* LYMPHS-7.0* MONOS-9.5 EOS-0.1 
BASOS-0.2
___ 10:45AM   PLT COUNT-281#
___ 10:45AM   ___ PTT-29.1 ___
.
IMAGING: 
----------
___ ___ Dopplers IMPRESSION:   
1.  Acute deep venous thrombosis of the right femoral and 
popliteal veins.   2.  No evidence of deep vein thrombosis in 
the left lower extremity.
. 
___ CTA Chest: 1.  No pulmonary embolus demonstrated.  
2.  Enlargement of the main pulmonary artery as seen on the 
prior examination ___.  This may reflect pulmonary 
arterial hypertension.   
.
___ ___ Dopplers IMPRESSION: 
1.  No evidence of DVT in the left lower extremity.  Assessment 
of left calf veins is limited.   2.  Similar distribution of 
thrombus in the right lower extremity involving the right mid 
and distal femoral vein and popliteal vein.
.   
DISCHARGE LABS: 
---------------
___ 12:04AM BLOOD WBC-4.2 RBC-2.62* Hgb-8.1* Hct-25.7* 
MCV-98 MCH-30.8 MCHC-31.4 RDW-20.3* Plt ___
___ 12:04AM BLOOD Neuts-59 Bands-0 Lymphs-12* Monos-26* 
Eos-0 Baso-0 Atyps-2* ___ Myelos-1*
___ 12:04AM BLOOD Hypochr-1+ Anisocy-2+ Poiklo-1+ 
Macrocy-3+ Microcy-1+ Polychr-1+ Ovalocy-1+ Schisto-1+
___ 12:04AM BLOOD Plt Smr-LOW Plt ___
___ 12:04AM BLOOD Glucose-103* UreaN-9 Creat-0.7 Na-138 
K-3.7 Cl-103 HCO3-26 AnGap-13
___ 12:04AM BLOOD ALT-15 AST-20 LD(LDH)-219 AlkPhos-81 
TotBili-0.3
___ 12:04AM BLOOD Albumin-3.5 Calcium-8.2* Phos-3.5 Mg-1.___ with transformed DLBCL and h/o follicular lymphoma 
presenting for a scheduled autoSCT. 
.
ACUTE ISSUES: 
.
#Diffuse Large B-Cell Lymphoma (DLBCL): transformed from 
follicular lyphoma. Underwent BEAM conditioning followed by 
scheduled autoSCT on ___. Post-transplant course complicated by 
febrile neutropenia, for which she was on cefepime, vancomycin 
and micafungin (to cover inguinal skin wounds). Recieved 5U 
PRBCs and 5U platelets to maintain hct > 21 and plts > 10. She 
was on PCA for a period of time for mucositis. Neutropenia 
resolved on ___, at which point antibiotics and G-CSF were 
discontinued. Patient was able to advance diet slowly as 
mucositis resolved; by discharge she was taking excellent PO 
hydration and continuing to advance her diet. Sent home on 
acyclovir for fungal ppx, to start Bactrim SS for PCP ppx on 
___.  
.
#DVT: New, provoked. ___ in outpatient heme/onc office showed 
acute DVT in the right popliteal/femoral veins + superficial 
thrombosis. Secondary to malignancy. Given lovenox in the 
clinic. Pt reported to be tachycardic and dyspneic in clinic, 
c/f PE was high. CTA chest negative for PE. IVC filter placed on 
___ by ___. Heparin drip discontinued ___ given falling 
platelet count. Left lower extemity noted to be swollen more 
significantly than the right on ___, but dopplers showed only 
stable right leg clot. Thrombocytopenia resolved on ___, and 
she was started on warfarin as well as lovenox sc at 
prophylactic dose. On ___ she was switched to lovenox sc at 
treatment dose (100mg BID); will start on warfarin as outpatient 
at a later date, once diet and medications have stabilized.  
.
#Bilateral groin skin tears: skin tears in inguinal region 
beneath panus c/b intertrigo/fungal infection. Developed prior 
to onset of neutropneia, started on vancomycin and micafungin + 
topical fungal cream. Healed well with proper wound care. 
Micafungin and vancomycin discontinued once neutropenia 
resolved. 
.
CHRONIC ISSUES: 
.
# Back and L hip pain: has h/o L hip bursistis; no h/o sciatica. 
Description of pain c/w musculoskeletal source, no concerning 
physical exam findings. Symptoms fluctuated through course of 
stay based on patient positioning/activity level. 
.
#Migranes: Patient reporting unilateral (right sided) headache 
with photosensitivity and nausea on ___. Resolved on ___ 
after receiving fioracet and ativan for nausea. 
.
#Neuropathy: Stable, likely secondary to old sensory stroke. 
Also has new numbness on fingertips bilaterally likely secondary 
to etoposide. Continued home gabapentin.
.
#H/o cerebral aneurysm: Stable. Discovered ___ years ago on MRA 
head in right ICA cavernous sinus. S/p coiling ___ years ago. Has 
stable dysconjugate gaze/pupil asymmetry from the aneurysm.   
.
#Depression: Stable, continued on home venlafaxine.
.
TRANSTIONAL ISSUES: 
.
# ANTICOAGULATION: discharged on lovenox; will continue for at 
least 2 weeks while diet increases/she starts on bactrim, and 
then be transitioned to warfarin as outpatient. 
.
# PCP ___: to start ___ sent home w/script
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q8H 
2. Furosemide 20 mg PO DAILY 
3. Gabapentin 900 mg PO BID 
4. Omeprazole 20 mg PO DAILY 
5. Ondansetron 8 mg PO Q8H:PRN nausea 
6. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
7. Prochlorperazine 10 mg PO Q6H:PRN nausea 
8. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
9. Venlafaxine 25 mg PO BID 
10. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Acyclovir 400 mg PO Q8H 
2. Gabapentin 900 mg PO BID 
3. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
4. Venlafaxine 25 mg PO BID 
5. Miconazole 2% Cream 1 Appl TP BID 
RX *miconazole nitrate [Antifungal Cream] 2 % apply to groin for 
rash three times a day Disp #*1 Tube Refills:*0
6. Multivitamins 1 TAB PO DAILY 
7. Omeprazole 20 mg PO DAILY 
8. Furosemide 20 mg PO DAILY 
9. Ondansetron 8 mg PO Q8H:PRN nausea 
10. Prochlorperazine 10 mg PO Q6H:PRN nausea 
11. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
RX *sulfamethoxazole-trimethoprim [Bactrim] 400 mg-80 mg 1 
tablet(s) by mouth daily Disp #*30 Tablet Refills:*0
12. Enoxaparin Sodium 100 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time 
RX *enoxaparin 100 mg/mL 100 mg sc twice a day Disp #*14 Syringe 
Refills:*0
13. OLANZapine (Disintegrating Tablet) 2.5 mg PO BID nausea 
RX *olanzapine 2.5 mg 1 tablet(s) by mouth twice a day Disp #*14 
Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
# Primary: Diffuse Large B-Cell Lymphoma (DLBCL) 

# Secondary: Febrile Neutropenia, Deep Venous Thrombosis, 
Depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 

___ was a pleasure taking care of you at the ___ 
___. You came in for an auto-stem cell 
transplant (autSCT) for your Diffuse Large B-Cell Lymphoma 
(DLBCL). Just prior to admission you were found to have a deep 
vein thrombosis (DVT), for which you were started on lovenox and 
had an inferior vena cava (IVC) filter placed on ___. You 
recieved your autoSCT on ___. 

Your post-transplant course was complicated by fever, requiring 
antibiotics. These were discontinued without incident when your 
white blood cell counts had recovered. Lovenox was held when 
your platelet count fell during chemotherapy. Anticoagulation 
with lovenox was restarted on ___ when your platelet count had 
recovered. 

You will remain on viral prophylaxis with acyclovir for now, and 
start PCP prophylaxis with ___ on ___.
 
Followup Instructions:
___